US04548947
A solution of 356 g of 4-nitro-3-(4-methylphenyl)-butanoic acid methyl ester, 138 g of methyl acrylate and 25 ml of Triton B in 500 ml of t-butanol is allowed to stir at room temperature for 94 hours. Excess aqueous hydrochloric acid (1 N) is added and the solution is diluted with diethyl ether. The organic layer is separated, dried over anhydrous magnesium sulfate and evaporated to give 4-nitro-3-(4-methylphenyl)heptanedioic acid dimethyl ester.

reactant | 4-nitro-3-(4-methylphenyl)-butanoic acid methyl ester | 356 g | COC(CC(C[N+](=O)[O-])C1=CC=C(C=C1)C)=O | C12H15NO4
reactant | methyl acrylate | 138 g | C(C=C)(=O)OC | C4H6O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | t-butanol | 500 ml | C(C)(C)(C)O | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-nitro-3-(4-methylphenyl)heptanedioic acid dimethyl ester | COC(CC(C(CCC(=O)OC)[N+](=O)[O-])C1=CC=C(C=C1)C)=O | C16H21NO6
